US06800654B2
2-(6-Methoxy-2-naphthyl)-3-pentyl-1H-indole
To a stirred suspension of the 1-(6-methoxy-2-naphthyl)heptan-1-one (81.5 g, 301.44 mmol) in ethanol (2000 mL) under N2 was added phenylhydrazine (35.857 g, 331.58 mmol) and p-toluene sulfonic acid monhydrate (120.41 g, 633.02 mmol). The mixture was refluxed. Warming gave a homogenous solution. (A modification of this Fisher indole reaction to incorporate varied substitution on the indole ring utilizes an N-arylhydrazone in place of the aryl hydrazine-details of hydrazone preparation in a recent JACS, S. Wagaw; B. H. Yang; S. L. Buchwald. JACS, 121, 1999, 10251-10263). After 92 h reflux, heating was stopped and the reaction mixture cooled and rotovap'd to a residue. The residue was partitioned between EtOAc (1700 mL) and 1 N HCl (500 mL). The layers were shaken, separated, and the organic layer washed with 1 N HCl (2×300 mL), sat. aq. NaHCO3 (3×250 mL), H2O (3×250 mL), brine (2×250 mL), dried over Na2SO4, filtered, rotovap'd and dried in vacuo to give a dark viscous oil (106.2 g). The residue was triturated with hexane to give an off-white solid which was collected, rinsed and dried in vacuo to give the product as an off-white solid (95.9 g, 279.21 mmol, 93%) which dec. 93-96° C. 400 mg of the crude indole was recrystallized from hexane to give the product as a white solid (298 mg) with mp 95-97°C.; 1H NMR (DMSO-d6) δ 0.82 (t, J=7.0 Hz, 3H), 1.31 (m, 4H), 1.66 (m, 2H), 2.89 (t, J=7.6 Hz, 2H), 3.90 (s, 3H), 6.98-7.02 (m, 1H), 7.07-7.10 (m, 1H), 7.21 (dd, J=2.4, 8.9 Hz, 1H), 7.34-7.37 (m, 2H), 7.54 (d, J=7.94 Hz, 1H), 7.73 (dd, J=1.5, 8.6 Hz, 1H), 7.88 (d, J=9.00 Hz, 1H), 7.93 (d, J=8.55 Hz, 1H), 8.03 (s, 1H), 11.17 (s, 1H); IR (solid) 3350, 2960, 2920, 2840, 1600, 1200, 740, cm−1; mass spectrum [ESI], m/z 344 (M+H)+;

reactant | 1-(6-methoxy-2-naphthyl)heptan-1-one | 301.44 mmol, 81.5 g | COC=1C=C2C=CC(=CC2=CC1)C(CCCCCC)=O | C18H22O2
reactant | phenylhydrazine | 331.58 mmol, 35.857 g | C1(=CC=CC=C1)NN | C6H8N2
reactant | p-toluene sulfonic acid | 633.02 mmol, 120.41 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | indole | N1C=CC2=CC=CC=C12 | C8H7N
solvent | ethanol | 2000 mL | C(C)O | C2H6O
product | 2-(6-Methoxy-2-naphthyl)-3-pentyl-1H-indole | 106.2 g | COC=1C=C2C=CC(=CC2=CC1)C=1NC2=CC=CC=C2C1CCCCC | C24H25NO
